US04496758
Freshly sublimed tungsten hexachloride (0.59 gram; 1.5 mmole) was weighed into a dry glass reactor under an atmosphere of nitrogen and 38.1 grams (0.15 mole) 10-undecenyl pivalate added (mole ratio 10-undecenyl pivalate to WCl6 of 100:1). The solution was heated to 90° C. under nitrogen with stirring and 1.56 grams (4.5 mmole) tetrabutyltin added (mole ratio tetrabutyltin to WCl6 of 3:1). Evolution of ethylene was observed almost immediately. Heating and stirring were continued for two hours--after which time ethylene evolution was no longer evident. The reaction mixture was then filtered through a diatomaceous earth filter bed. Analysis of the filtrate indicated 76.1 percent conversion of the 10-undecenyl pivalate with 87.6 percent selectivity to the desired 1,20-dipivaloxy-10-eicosene product. This represents a yield of 66.7 percent 1,20-dipivaloxy-10-eicosene.

reactant | 10-undecenyl pivalate | 0.15 mole, 38.1 grams | C(C(C)(C)C)(=O)OCCCCCCCCCC=C | C16H30O2
reactant | tetrabutyltin | 4.5 mmole, 1.56 grams | C(CCC)[Sn](CCCC)(CCCC)CCCC
reactant | ethylene | C=C | C2H4
catalyst | tungsten hexachloride | 1.5 mmole, 0.59 gram | [W](Cl)(Cl)(Cl)(Cl)(Cl)Cl
product | 1,20-dipivaloxy-10-eicosene | yield of 66.7 percent | C(C(C)(C)C)(=O)OCCCCCCCCCC=CCCCCCCCCCOC(C(C)(C)C)=O | C30H56O4
